US08461328B2
A solution of racemic trans 3-[3-(6-benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-1-methyl-1-(2,2,2-trifluoro-ethyl)-urea (80.0 mg, 150 μmol) and sodium hydroxide solution (1.5 mL, 1N) in methanol (1 mL) and THF (1 mL) was stirred at ambient temperature for 30 minutes. Dilute HCl was added and the mixture purified by Isolute® SCX-2 column (gradient: methanol to 2M NH3 in methanol solution). The residue obtained was purified further by trituration with DCM/diethyl ether to afford 30 mg (51%) of racemic trans 1-methyl-3-[3-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-1-(2,2,2-trifluoro-ethyl)-urea as a white solid. LCMS (Method A, ESI): RT=3.40 min, m+H=382.10; 1H NMR (400 MHz, DMSO) δ: 12.36 (s, 1H), 9.00 (s, 1H), 7.61 (t, 1H), 7.00 (dd, 1H), 6.67 (d, 1H), 5.66 (m, 1H), 4.41 (m, 1H), 4.09 (q, 2H), 2.97 (s, 3H), 2.50 (m, 2H), 2.27 (m, 3H), 1.79 (m, 1H).

reactant | racemic trans 3-[3-(6-benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-1-methyl-1-(2,2,2-trifluoro-ethyl)-urea | 150 μmol, 80.0 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=NC=C3N=NN(C3=C2C=C1)[C@@H]1C[C@H](CC1)NC(N(CC(F)(F)F)C)=O | C22H22F3N7O3S
reactant | sodium hydroxide | 1N, 1.5 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | racemic trans 1-methyl-3-[3-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-1-(2,2,2-trifluoro-ethyl)-urea | 30 mg, 51% | CN(C(=O)N[C@@H]1C[C@H](CC1)N1N=NC2=CN=C3NC=CC3=C12)CC(F)(F)F | C16H18F3N7O
